US07994203B2
Step 2: 5-Methyl-4-(5-methyl-3-trifluoromethyl-[1,2,4]triazol-1-yl)-2H-pyrazol-3-ol
To a solution of 2-(5-methyl-3-trifluoromethyl-[1,2,4]triazol-1-yl)-3-oxo-butyric acid ethyl ester (890 mg, 3.19 mmol) in EtOH (15 ml) is added hydrazine (0.500 ml, 15.94 mmol) and the mixture left to stir at 50° C. overnight. The solvent is removed in vacuo and trituration of the resulting pale yellow oil with ether and EtOAc affords the title compound as a fine white solid.

reactant | 2-(5-methyl-3-trifluoromethyl-[1,2,4]triazol-1-yl)-3-oxo-butyric acid ethyl ester | 3.19 mmol, 890 mg | C(C)OC(C(C(C)=O)N1N=C(N=C1C)C(F)(F)F)=O | C10H12F3N3O3
reactant | hydrazine | 15.94 mmol, 0.500 ml | NN | H4N2
solvent | EtOH | 15 ml | CCO | C2H6O
product | 5-Methyl-4-(5-methyl-3-trifluoromethyl-[1,2,4]triazol-1-yl)-2H-pyrazol-3-ol | CC=1C(=C(NN1)O)N1N=C(N=C1C)C(F)(F)F | C8H8F3N5O
